US06362360B1
d) 3-(4-Benzyloxyphenyl)-(S)-2-ethoxypropanoic acid
3-(4-Benzyloxyphenyl)-(S)-2-ethoxy-N-(2-hydroxy-(R)-1-phenylethyl)propanoic amide (8.9 g; 21.22 in mole) was hydrolyzed with concentrated sulfuric acid (27 ml) in water (104 ml) and dioxane (104 ml) at 90° C. for 5 hours. The reaction mixture was poured onto water (220 ml) and extracted with ethyl acetate. The organic phase was washed with brine, dried (sodium sulfate) and the solvent was evaporated in vacuo to give 6.85 g of a mixture of 3-(4-benzyloxyphenyl)-2-(S)-ethoxypropanoic acid and (S)-2-ethoxy-3-(4-hydroxyphenyl)-propanoic acid, which was used without further purification.

reactant | 3-(4-Benzyloxyphenyl)-(S)-2-ethoxy-N-(2-hydroxy-(R)-1-phenylethyl)propanoic amide | 8.9 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C[C@@H](C(=O)N[C@@H](CO)C1=CC=CC=C1)OCC | C26H29NO4
reactant | sulfuric acid | 27 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | 104 ml | O | H2O
solvent | dioxane | 104 ml | O1CCOCC1 | C4H8O2
product | 3-(4-Benzyloxyphenyl)-(S)-2-ethoxypropanoic acid | 6.85 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C[C@@H](C(=O)O)OCC | C18H20O4
